US07977352B2
Crude racemic-trans-[1,2,5-trimethyl-4-(4-nitrophenyl)piperazine] (7.48 g, 111% recovery) is prepared according to the method described above for the synthesis of racemic-1-(2-fluoro-4-nitrophenyl)-trans-2,4,5-trimethylpiperazine from racemic-[trans-2,5-dimethyl-1-(4-nitrophenyl)-piperazine] (6.34 g, 25.0 mmol). LCMS-ESI (m/z): calcd for C13H19N3O2, 249; [M+H]+ found, 250.

reactant | racemic-1-(2-fluoro-4-nitrophenyl)-trans-2,4,5-trimethylpiperazine | FC1=C(C=CC(=C1)[N+](=O)[O-])N1[C@H](CN([C@@H](C1)C)C)C | C13H18FN3O2
reactant | racemic-[trans-2,5-dimethyl-1-(4-nitrophenyl)-piperazine] | 25.0 mmol, 6.34 g | C[C@@H]1N(C[C@H](NC1)C)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
product | racemic-trans-[1,2,5-trimethyl-4-(4-nitrophenyl)piperazine] | 7.48 g, 111% | CN1[C@H](CN([C@@H](C1)C)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H19N3O2
